US05631369
Preparation of 4-(2-piperidinoethoxy)benzoic acid hydrochloride
To a 125 mL 3 neck flask with mechanical stirring, condenser, and a heating apparatus consisting of an RTD probe hooked via a temperature controller to a heating mantle, the following were added: 7.61 g methyl 4-hydroxybenzoate, 11.05 g β-chloroethylpiperidine hydrochloride, 16.59 g powdered potassium carbonate, and 60 mL amyl acetate. The mixture was heated in an oil bath under nitrogen to 115° C.-120° C. for 4 hour. HPLC indicated that the reaction was complete. The mixture was then cooled to ambient temperature and 40 mL of deionized water were added to dissolve solids. The aqueous layer was separated and discarded and the water wash was repeated. 5 mL of the organic phase was removed as an analytical standard. 25 mL 8N hydrochloric acid was added to remaining organic phase to extract the intermediate. The layers were separated and the acidified aqueous layers returned to the reaction flasks. The organic phase was discarded. The aqueous phase was heated to 95° C. until HPLC indicated complete hydrolysis of the ester (about 4 hours). The mixtures were cooled to 0° C.-5° C. for 1 hour and filtered. The filter cakes were rinsed with acetone (approx. 25 mL) and dried. Yield 12.61 g (83.6% theoretical).

reactant | methyl 4-hydroxybenzoate | 7.61 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | β-chloroethylpiperidine hydrochloride | 11.05 g | Cl.ClCCN1CCCCC1
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | amyl acetate | 60 mL | C(C)(=O)OCCCCC | C7H14O2
solvent | water | 40 mL | O | H2O
product | 4-(2-piperidinoethoxy)benzoic acid hydrochloride | Cl.N1(CCCCC1)CCOC1=CC=C(C(=O)O)C=C1 | InChI=1S/C14H19NO3.ClH/c16-14(17)12-4-6-13(7-5-12)18-11-10-15-8-2-1-3-9-15;/h4-7H,1-3,8-11H2,(H,16,17);1H
